US08669234B2
Trifluoro-methanesulfonic acid 8-trifluoromethanesulfonyloxy-6H-dibenzo[c,h]chromen-2-yl ester:
To a suspension of 6H-Dibenzo[c,h]chromene-2,8-diol (3.46 g, 13.1 mmol) in CH2Cl2 at 0° C. was added pyridine (2.65 mL, 32.8 mmol) followed by triflic anhydride (4.85 mL, 28.8 mmol). The reaction was allowed to warm to room temperature then poured into H2O, The organic phase was collected then washed with 1N HCl and Brine. After concentration, the crude material was recrystallized from CH2Cl2/Hexanes to afford the title compound (4.07 g, 7.70 mmol, 59% yield). 1H NMR (CDCl3, 400 MHz): δ 8.35 (d, 1H), 7.88 (d, 1H), 7.79 (d, 1H), 7.71 (d, 1H), 7.57 (d, 1H), 7.40 (dd, 1H), 7.34 (dd, 1H), 7.18 (s, 1H), 5.34 (s, 2H).

reactant | 6H-Dibenzo[c,h]chromene-2,8-diol | 13.1 mmol, 3.46 g | C1=C(C=CC=2C1=CC=C1C3=C(COC21)C=C(C=C3)O)O | C17H12O3
reactant | pyridine | 32.8 mmol, 2.65 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 28.8 mmol, 4.85 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 8-trifluoromethanesulfonyloxy-6H-dibenzo[c,h]chromen-2-yl ester | 7.70 mmol, 4.07 g, 59% yield | FC(S(=O)(=O)OC=1C=CC2=C(COC3=C4C(=CC=C23)C=C(C=C4)OS(=O)(=O)C(F)(F)F)C1)(F)F | C19H10F6O7S2
